US05455252
6-(3-pyridylmethyl)-8-bromoquinoline and 3-nitrobenzene boronic acid can be combined to form 6-(3-pyridylmethyl)-8-(3-nitrophenyl)quinoline,

reactant | 6-(3-pyridylmethyl)-8-bromoquinoline | N1=CC(=CC=C1)CC=1C=C2C=CC=NC2=C(C1)Br | C15H11BrN2
reactant | 3-nitrobenzene boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 6-(3-pyridylmethyl)-8-(3-nitrophenyl)quinoline | N1=CC(=CC=C1)CC=1C=C2C=CC=NC2=C(C1)C1=CC(=CC=C1)[N+](=O)[O-] | C21H15N3O2
